US08003785B2
A mixture of 0.0638 g (0.211 mmole) 2-chloro-9-cyclobutyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-1), 0.0601 g (0.32 mmole) of toluenesulfonic acid monohydrate, 0.053 g (0.211 mmole) of 4-amino-N-(2-dimethylamino-ethyl)-3-methoxy-benzamide and 1 mL of isopropanol was heated in a sealed vessel at 140 degrees for 20 hours, cooled and concentrated under reduced pressure. The residue taken up in ethyl acetate and washed successively with 50 mL of saturated aqueous sodium bicarbonate, 50 mL of water, 50 mL of brine. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with acetonitrile-methanol-triethylamine (85:15:1) and then recrystallization from acetonitrile to give 0.0363 g of 4-(9-cyclobutyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(3-dimethylamino-propyl)-3-methoxy-benzamide (I-9) as a white solid.

reactant | 2-chloro-9-cyclobutyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.211 mmole, 0.0638 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCC2)N1 | C12H13ClF2N4O
reactant | toluenesulfonic acid monohydrate | 0.32 mmole, 0.0601 g | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
reactant | 4-amino-N-(2-dimethylamino-ethyl)-3-methoxy-benzamide | 0.211 mmole, 0.053 g | NC1=C(C=C(C(=O)NCCN(C)C)C=C1)OC | C12H19N3O2
solvent | isopropanol | 1 mL | C(C)(C)O | C3H8O
product | 4-(9-cyclobutyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(3-dimethylamino-propyl)-3-methoxy-benzamide | 0.0363 g | C1(CCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NCCCN(C)C)C=C2)OC | C25H33F2N7O3
